US07268230B2
10% Palladium on carbon (8.3 g) was added to a suspension of 7-benzyloxy-6-methoxy-3,4-dihydroquinazolin-4-one (50 g, 0.177 mol) in dimethylformamide (800 ml) under nitrogen. Ammonium formate (111.8 g, 1.77 mol) was then added in portions over 5 minutes. The reaction mixture was stirred for one hour at ambient temperature then heated to 80° C. for a further hour. The reaction mixture was filtered hot through diatomaceous earth and the residues washed with dimethylformamide. The filtrate was then concentrated and the residue suspended in water. The pH was adjusted to 7.0 using 2M sodium hydroxide and the resulting mixture was stirred at ambient temperature for one hour. The solid was filtered, washed with water and dried over phosphorus pentoxide yielding 7-hydroxy-6-methoxy-3,4-dihydroquinazolin-4-one as a white solid (20.52 g, 60%).

reactant | 7-benzyloxy-6-methoxy-3,4-dihydroquinazolin-4-one | 0.177 mol, 50 g | C(C1=CC=CC=C1)OC1=C(C=C2C(NC=NC2=C1)=O)OC | C16H14N2O3
reactant | Ammonium formate | 1.77 mol, 111.8 g | C(=O)[O-].[NH4+]
catalyst | Palladium on carbon | 8.3 g | [Pd] | Pd
solvent | dimethylformamide | 800 ml | CN(C=O)C | C3H7NO
product | 7-hydroxy-6-methoxy-3,4-dihydroquinazolin-4-one | 20.52 g, 60% | OC1=C(C=C2C(NC=NC2=C1)=O)OC | C9H8N2O3
